US04242519
Methyl α-methylthio-α-(p-phthalimidophenyl)propionate (355 mg), 600 mg of zinc powder and 32 mg of anhydrous copper sulfate were heated under reflux for 5 hours in 3 ml of acetic acid. Methylene chloride (30 ml) was added, and the insoluble matter was separated by filtration and washed with 20 ml of methylene chloride. The filtrate and the washing were combined, washed twice with 10 ml of water, and dried over anhydrous sodium sulfate. The solvent was evaporated off under reduced pressure. The residue was chromatographed on a silica gel column using methylene chloride as an eluent to afford 245 mg of methyl α-[p-(1-oxo-2-isoindolinyl)phenyl]propionate as colorless crystals in a yield of 83%.

reactant | Methyl α-methylthio-α-(p-phthalimidophenyl)propionate | 355 mg | CSC(C(=O)OC)(C)C1=CC=C(C=C1)N1C(C=2C(C1=O)=CC=CC2)=O | C19H17NO4S
reactant | Methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 600 mg | [Zn] | Zn
catalyst | copper sulfate | 32 mg | S(=O)(=O)([O-])[O-].[Cu+2]
product | methyl α-[p-(1-oxo-2-isoindolinyl)phenyl]propionate | 245 mg, yield of 83% | O=C1N(CC2=CC=CC=C12)C1=CC=C(C=C1)C(C(=O)OC)C | C18H17NO3
